* SpiceNetList
* 
* Exported from lab4.sch at 14/05/2019 11:26
* 
* EAGLE Version 9.3.0 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
R_R1 0 N_3 100 
C_C1 N_1 N_2 47n 
V_V1 N_1 0 DC 0 AC 1 
L_L1 N_2 N_3 220m 

* --------- simulation ---------

.control
set filetype=ascii
AC Dec 1000 565 2565 
write lab4.sch.sim I(V_V1)
.endc


.END










