* SpiceNetList
* 
* Exported from lab4.sch at 14/05/2019 11:26
* 
* EAGLE Version 9.3.0 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.000000
* --------- .OPTIONS ---------
* --------- .PARAMS ---------

* --------- devices ---------
R_R1 0 N_3 100 
C_C1 N_1 N_2 47n 
V_V1 N_1 0 DC 0 AC 1 
L_L1 N_2 N_3 220m 

* --------- simulation ---------
.print DC I(V_V1)
.print AC I(V_V1)
.print TRAN I(V_V1)
.END










